US04632881
Part A--Production of Pyrithione Methacrylate Monomer
A 2-liter beaker was charged with 158.8 g of 40% aqueous sodium pyrithione (0.5 mole) and 200 ml of water. A dropping funnel was charged with 90.4 ml of methacryloyl chloride (0.75 mole). The 2-liter beaker was cooled to +5° C. with an ice/water bath. The acid chloride was added dropwise over 90 minutes. During addition the temperature of the solution was maintained between +5° C. and +9° C. After addition was completed the solution was stirred at +6° to +7° C. for 1 hour. A solution of 20 g sodium hydroxide (0.5 mole) in 300 ml of water was added over 10 minutes. After stirring an additional 15 minutes at +8° to +10° C. the solution was brought to room temperature and stirred for 1 hour. The yellow solid that had formed was filtered and then washed with 200 ml of water. The solid was dissolved in 800 ml of methylene chloride and extracted three times with 500 ml of 4% sodium hydroxide. The methylene chloride solution was dried over 60 g of magnesium sulfate for 15 minutes, filtered, and concentrated via roto-evaporation, to give 69.18 g of a yellow solid for a 66.7% yield, with an assay of 94.1%.

reactant | sodium pyrithione | 0.5 mole, 158.8 g | C1=CC(=S)N(C=C1)[O-].[Na+]
reactant | methacryloyl chloride | 0.75 mole, 90.4 ml | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | sodium hydroxide | 0.5 mole, 20 g | [OH-].[Na+]
solvent | water | 300 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | Pyrithione Methacrylate | 69.18 g, 66.7% yield | C=1C=C[N+](=C(C1)S)[O-].C(C(=C)C)(=O)[O-] | InChI=1S/C5H5NOS.C4H6O2/c7-6-4-2-1-3-5(6)8;1-3(2)4(5)6/h1-4,8H;1H2,2H3,(H,5,6)/p-1
